US03962224
Aqueous sodium hydroxide (30 ml. of a 2.5 N solution) is added dropwise over 15 minutes to a stirring solution of methyl 2-azido-2-methoxyacetate (10.40 g., 72 mmole) in methanol (8.5 ml.). The mixture becomes warm and cloudy during the addition. The methanol is removed under reduced pressure and the aqueous residue is acidified to pH 1 with concentrated sulfuric acid and extracted with ether. The combined ethereal extracts are dried over sodium sulfate and evaporated in vacuo to leave 2-azido-2-methoxyacetic acid (8.82 g.) as a clear liquid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 2-azido-2-methoxyacetate | 72 mmole, 10.40 g | N(=[N+]=[N-])C(C(=O)OC)OC | C4H7N3O3
solvent | methanol | 8.5 ml | CO | CH4O
product | 2-azido-2-methoxyacetic acid | 8.82 g | N(=[N+]=[N-])C(C(=O)O)OC | C3H5N3O3
